* C:\Users\sachi\Cadence tool\Cadence\Road MAP\LTSpice\CMOS_Inv\inverter_WL_sweep.asc
* Generated by LTspice 24.1.7 for Windows.
VDD VDD 0 {VDD}
VIN VIN 0 PULSE(0 {VDD} 0 100p 100p 5n 10n)
C1 VOUT 0 10f
M1 VDD VIN VOUT N001 PMOSMOD l=0.1u w={Wp_ratio * Wn}
M2 VOUT VIN 0 N002 NMOSMOD l=0.1u w=Wn
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\sachi\AppData\Local\LTspice\lib\cmp\standard.mos
.model NMOSMOD NMOS (LEVEL=1 VTO=0.4 KP=120u LAMBDA=0.02)
.model PMOSMOD PMOS (LEVEL=1 VTO=-0.4 KP=40u LAMBDA=0.02)
.step param Wn list 1u 2u
.step param Wp_ratio 1.5 3.0 0.25
.param VDD = 1.2
.dc Vin 0 {VDD} 0.01
.plot dc V(VIN) V(VOUT)
* .tran 0.1n 20n
.meas tran tPLH TRIG V(VIN) VAL={VDD/2} FALL=1 TARG V(VOUT) VAL={VDD/2} RISE=1
.meas tran tPHL TRIG V(VIN) VAL={VDD/2} RISE=1 TARG V(VOUT) VAL={VDD/2} FALL=1
.backanno
.end
